US05157026
Step 1: 2-Isopropyl-7-methylimidazo[4,5-b]pyridine
The title compound was prepared from 2,3-diamino-4-picoline (0.246 g, 2 mmol) and isobutyric acid (0.19 ml, 2 mmol) according to the procedure described in Step 1 of Example 9. The crude product was purified by flash chromatography on silica-gel using EtOAc-MeOH (20:1) to give the pure product (0.25 g, 72%) as a tan colored solid.

reactant | 2,3-diamino-4-picoline | 2 mmol, 0.246 g | NC1=NC=CC(=C1N)C | C6H9N3
reactant | isobutyric acid | 2 mmol, 0.19 ml | C(C(C)C)(=O)O | C4H8O2
product | 2-Isopropyl-7-methylimidazo[4,5-b]pyridine | C(C)(C)C=1NC=2C(=NC=CC2C)N1 | C10H13N3
